US05166204
In 10 ml of N,N-dimethylformamide was dissolved 380 mg of N-(2-dimethylaminoethyl)-6-methoxycarbazole-3,4-dicarboximide. Thereto was added 45 mg of 60% sodium hydride. The mixture was stirred at 40° C. for 20 minutes and then cooled to 20° C. Thereto was added 140 mg of dimethyl sulfate, and the resulting mixture was stirred at the same temperature for 2 hours. The solvent was removed by distillation under reduced pressure. The residue was mixed with 50 ml of ethyl acetate and 25 ml of water to dissolve the residue. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from n-propanol to obtain 200 mg (yield: 50%) of N-(2-dimethylaminoethyl)-6-methoxy-9-methylcarbazole-3,4-dicarboximide as yellow crystals.

reactant | N-(2-dimethylaminoethyl)-6-methoxycarbazole-3,4-dicarboximide | 380 mg | CN(CCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)OC)C | C19H19N3O3
reactant | sodium hydride | 45 mg | [H-].[Na+]
reactant | dimethyl sulfate | 140 mg | S(=O)(=O)(OC)OC | C2H6O4S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(2-dimethylaminoethyl)-6-methoxy-9-methylcarbazole-3,4-dicarboximide | 200 mg, yield: 50% | CN(CCN1C(=O)C=2C=CC=3N(C4=CC=C(C=C4C3C2C1=O)OC)C)C | C20H21N3O3
